**********
* Copyright Intusoft 1997
* All Rights Reserved
**********
****************
*SRC=RELAY2S;RELAY2S;Relays;Simple;
*SYM=RELAY2
.SUBCKT RELAY2S 1  12  19 23  ;    17 9 13 3  4 18 19 20 7 8 14 15
*Connections  C+ C-  O+ O-        ; I S  V MF F CG O+ SC F V PO FS
* Other connections:  17 9 13 3 4 18 20 7 8 14 15
*                CoilCur |  | | |  |  | | |  |  |
*      Sum Magnetic Forces  | | |  |  | | |  |  |
*                    Velocity | |  |  | | |  |  |
*                Magnetic Force |  |  | | |  |  |
*                        Friction  |  | | |  |  |
*                        Contact Gap  | | |  |  |
*                 Output Switch Control | |  |  |
*                               Coil Flux |  |  |
*                              Coil Voltage  |  |
*                             Plunger Position  |
*                                   Force at Stop
V1 2 12
S1 19 23 20 0 SW1
.MODEL SW1 SW RON=10M ROFF=10G VT=3K VH=1K
B13 20 0 V=ABS(V(19) / (V(18)))
B5 8 0 V=V(1) - V(12)
A1 8 7 S_001
.MODEL S_001 s_xfer(in_offset=0 gain=1.0 
+ num_coeff=[1.0] den_coeff=[1.0 0] denorm_freq=1.0)
A2 9 13 S_002
.MODEL S_002 s_xfer(in_offset=0 gain=1.0 
+ num_coeff=[1.0] den_coeff=[1.0 0] out_ic=0 denorm_freq=1.0)
A3 13 14 S_003
.MODEL S_003 s_xfer(in_offset=0 gain=1.0 
+ num_coeff=[1.0] den_coeff=[1.0 0] out_ic=0 denorm_freq=1.0)
A4 14 15 PWL_001
.MODEL PWL_001 Pwl(xy_array=[0 0 1.0 
+ 0 1.1 100.0Meg 1.2 200.0Meg] input_domain=10.0M fraction=TRUE)
A5 13 4 LIM_002
.MODEL LIM_002 Limit(in_offset=0 gain=1.0K 
+ out_lower_limit=-10.0 out_upper_limit=10.0 limit_range=1.0U 
+ fraction=FALSE)
A6 14 18 LIM_001
.MODEL LIM_001 Limit(in_offset=-800.0M gain=1.0 
+ out_lower_limit=-10.0K out_upper_limit=-1.0U 
+ limit_range=1.0U fraction=FALSE)
B7 1 2 I=V(17)
B8 17 5 I=V(7)
V2 5 0
B12 17 16 V=.1 * I(V2)
B4 16 0 V=I(V2) * (ABS(1.1-V(14)) + (1.1-V(14))) * .5 ; simple air gap model
B10 9 0 V=V(3) - V(4) ; Perfectly Elastic Stop
B11 3 0 V=(I(V2) * 3E4)^2 - V(15)
.ENDS
*****************
*SRC=RELAY2;RELAY2;Relays;;
*SYM=RELAY2
.SUBCKT RELAY2 1  12  19 23  {KStop=.0001 Parea=3E4}
*Connections  Ctrl+ Ctrl-  Out+ Out-  
* Other connections:  17 9 13 3 4 18 20 7 8 14 15
*                CoilCur |  | | |  |  | | |  |  |
*      Sum Magnetic Forces  | | |  |  | | |  |  |
*                    Velocity | |  |  | | |  |  |
*                Magnetic Force |  |  | | |  |  |
*                        Friction  |  | | |  |  |
*                        Contact Gap  | | |  |  |
*                 Output Switch Control | |  |  |
*                               Coil Flux |  |  |
*                              Coil Voltage  |  |
*                             Plunger Position  |
*                                   Force at Stop
* Parameters: Kstop - scaling factor for non elastic plunger stop ex. .0001
*             Parea - Plunger face surface area in mm^2.
V1 2 12
S1 19 23 20 0 SW1
.MODEL SW1 SW RON=10M ROFF=10G VT=3K VH=1K
B13 20 0 V=ABS(V(19) / (V(18)))
B5 8 0 V=V(1) - V(12)
A1 8 7 S_001
.MODEL S_001 s_xfer(in_offset=0 gain=1.0 
+ num_coeff=[1.0] den_coeff=[1.0 0] denorm_freq=1.0)
A2 9 13 S_002
.MODEL S_002 s_xfer(in_offset=0 gain=1.0 
+ num_coeff=[1.0] den_coeff=[1.0 0] out_ic=0 denorm_freq=1.0)
A3 13 14 S_003
.MODEL S_003 s_xfer(in_offset=0 gain=1.0 
+ num_coeff=[1.0] den_coeff=[1.0 0] out_ic=0 denorm_freq=1.0)
A4 14 15 PWL_001
.MODEL PWL_001 Pwl(xy_array=[0 0 1.0 
+ 0 1.1 100.0Meg 1.2 200.0Meg] input_domain=10.0M fraction=TRUE)
A5 13 4 LIM_002
.MODEL LIM_002 Limit(in_offset=0 gain=1.0K 
+ out_lower_limit=-10.0 out_upper_limit=10.0 limit_range=1.0U 
+ fraction=FALSE)
A6 14 18 LIM_001
.MODEL LIM_001 Limit(in_offset=-800.0M gain=1.0 
+ out_lower_limit=-10.0K out_upper_limit=-1.0U 
+ limit_range=1.0U fraction=FALSE)
B7 1 2 I=V(17)
B8 17 5 I=V(7)
V2 5 0
B12 17 16 V=.1 * I(V2)
RB4 16 0 R = (1.1-V(14)) + (1.1-V(14))^2 ; nonlinear air gap with fringing increases
B10 9 0 V=V(3) - V(4) - V(13) * V(15) * {KStop}
B11 3 0 V=(I(V2) * {Parea})^2 - V(15)
.ENDS
*****************

